US07951954B2
A mixture of (3-formyl-phenyl)-acetic acid ethyl ester (400 mg), (2-fluorobenzyl)amine (410 mg) and acetic acid (130 mg) in methanol (5 mL) was stirred at room temperature. After 1 h, sodium triacetoxyborohydride (700 mg) was added. After 5 hours, the reaction mixture was neutralised with aqueous ammonia (0.880) and the solution evaporated to dryness. The residue was diluted with toluene and the mixture evaporated. The resulting gum was dissolved in methanol and applied to a SCX cartridge (70 g, varian). The cartridge was eluted with methanol (250 mL) and then 20% ammonia in methanol to collect the reductive amination product. The solution was evaporated and the gum dissolved in ethanol. Anhydrous calcium chloride (730 mg) was added followed by careful portionwise addition of sodium borohydride (500 mg). After 16 hours, the reaction mixture was quenched with 2M aqueous potassium carbonate (20 mL). The solid was removed by filtration, the filtrate evaporated and the residue partitioned between ethyl acetate and brine. The organic solution was dried over magnesium sulphate, filtered and evaporated. Purification was by silica gel chromatography eluting with ethyl acetate:dichloromethane 1:3, then ethyl acetate:dichloromethane 1:3 containing 5% triethylamine, to give 2-{3-[(2-fluoro-benzylamino)-methyl]-phenyl}-ethanol (320 mg). Without further purification the 2-{3-[(2-fluoro-benzylamino)-methyl]-phenyl}-ethanol was dissolved in dichloromethane (5 mL) and di-tert-butyl dicarbonate (300 mg) added. After 3 hours, the solution was applied to a silica gel column eluting with ethyl acetate:dichloromethane 1:9 to give the subtitle compound (300 mg).

reactant | (3-formyl-phenyl)-acetic acid ethyl ester | 400 mg | C(C)OC(CC1=CC(=CC=C1)C=O)=O | C11H12O3
reactant | (2-fluorobenzyl)amine | 410 mg | FC1=C(CN)C=CC=C1 | C7H8FN
reactant | acetic acid | 130 mg | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 700 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | iso-propanol acetonitrile | C(C)(C)O.C(C)#N
product | 2-{3-[(2-fluoro-benzylamino)-methyl]-phenyl}-ethanol | 320 mg | FC1=C(CNCC=2C=C(C=CC2)CCO)C=CC=C1 | C16H18FNO
